US05053548
A solution was prepared by dissolving 105 g of 4-ethylphenol into 500 ml of chloroform. The solution was cooled by ice water bath, followed by dropwise addition of 45 ml of bromine while stirring. The addition was took 1 hour. Then, the reaction mixture was cooled by an ice water bath while stirring for 4 hours, moved into a separatory funnel to wash with water, an aqueous solution saturated with NaCl, 10% water solution of sodium hydrogencarbonate and an aqueous solution saturated with NaCl in turn, and dried with magnesium sulfate anhydride. The solvent in the reactant was distilled off under reduced pressure to yield 173 g of light brown and oily 2-bromo-4-ethylphenol.

reactant | 4-ethylphenol | 105 g | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | bromine | 45 ml | BrBr | Br2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-4-ethylphenol | BrC1=C(C=CC(=C1)CC)O | C8H9BrO
